US07893081B2
Step 3: 1-(1,4-dioxan-2-yl)-N-methylmethanamine hydrochloride
A solution of tosylate 1B-2 (7.76 kg), methylamine in ethanol (62 L of a 33 wt % solution) and ethanol (62 L) was heated to an internal temperature of 65° C. for 20 h. The resulting solution was then concentrated via atmospheric distillation to a volume of 15 L. This solution was held at 50° C. while NaOEt (9.2 L of a 21 wt % solution in ethanol; 1.05 equiv) was added, along with MTBE (47 L) each in two alternating portions. The slurry was then cooled to room temperature and filtered to remove sodium tosylate. The solids were washed with MTBE (15.5 L). The combined filtrates were solvent switched to isopropanol via atmospheric distillation. The final volume was ˜30 L. Conc. HCl (2.1 L of S.G. 1.18, 1.05 equiv) was added whilst keeping the temperature <60° C. Isopropanol (116 L) was added, and the batch was concentrated via atmospheric distillation to a total volume of ˜30 L. This mixture was held at 50° C. until a slurry formed, then cooled to room temperature overnight. The solids were filtered, washed with 1:1 heptane:isopropanol (15 L) and dried to give 1B-3 as a white solid.

reactant | tosylate | S(=O)(=O)([O-])C1=CC=C(C)C=C1
reactant | methylamine | CN | CH5N
reactant | HCl | 2.1 L, 1.05 equiv | Cl | ClH
reactant | Isopropanol | 116 L | C(C)(C)O | C3H8O
reactant | ethanol | C(C)O | C2H6O
reactant | ethanol | 62 L | C(C)O | C2H6O
product | 1-(1,4-dioxan-2-yl)-N-methylmethanamine hydrochloride | Cl.O1C(COCC1)CNC | InChI=1S/C6H13NO2.ClH/c1-7-4-6-5-8-2-3-9-6;/h6-7H,2-5H2,1H3;1H
